US05430169
Sphingosine (100 mg, 0.33 mmol), in solution in dry dichloromethane (15 mL), was combined with di-tert-butyl dicarbonate (144 mg, 0.66 mmol), the dicarbonate also being in solution in dry dichloromethane (10 mL). The solution containing the sphingosine and dicarbonate was then cooled to 0° C. under nitrogen. Diisopropylethylamine (85 mg, 0.66 mmol) was added to that solution in a dropwise manner. The solution was then stirred over an ice bath at 0° C. for 5 min., wherein at that point the ice bath was removed. The solution was stirred at room temperature for 5 h and subsequently diluted with dichloromethane (15 mL). The resulting organic layer was washed with water (2×10 mL), brine (20 mL), and dried over sodium sulfate. The solvent was then evaporated to provide a crude material, which was purified by flash chromatography eluted with a mixture of hexanes and ethyl acetate (3:2) to provide N-Boc sphingosine (partially blocked) (118 mg) at a yield of 90%.

reactant | Sphingosine | 0.33 mmol, 100 mg | OC[C@H](N)[C@H](O)\C=C\CCCCCCCCCCCCC | C18H37NO2
reactant | di-tert-butyl dicarbonate | 0.66 mmol, 144 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dicarbonate | C(=O)([O-])OC(=O)[O-]
reactant | Diisopropylethylamine | 0.66 mmol, 85 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-Boc sphingosine | yield of 90% | C(=O)(OC(C)(C)C)N[C@@H](CO)[C@H](O)\C=C\CCCCCCCCCCCCC | C23H45NO4
